US07071207B2
Preparation of methyl N-(1-piperidinyl)-β-alaninate
To a solution of 1-aminopiperidine (100 g, 1.00 mol) in dry MeOH (1.00 L) at 0° C., methyl acrylate (99 mL, 1.10 mol) was added dropwise over 2 h. The resulting mixture was stirred overnight at rt. The solvents were evaporated, hexane was added to the residue, and white solid (impurity) was precipitated. The solid was removed by filtration, and the filtrate was evaporated to give 94.10 g (50.5%) of the desired material as a yellow oil, which was used without purification in Example 13.

reactant | 1-aminopiperidine | 1.00 mol, 100 g | NN1CCCCC1 | C5H12N2
reactant | methyl acrylate | 1.10 mol, 99 mL | C(C=C)(=O)OC | C4H6O2
solvent | MeOH | 1.00 L | CO | CH4O
product | methyl N-(1-piperidinyl)-β-alaninate | 94.10 g, 50.5% | N1(CCCCC1)NCCC(=O)OC | C9H18N2O2
